* /home/aparveen111/esim-workspace/6t_ram/6t_ram.cir

.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__r+c.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__inductors.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.lib "/usr/share/local/sky130_fd_pr/models/sky130.lib.spice" tt
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__pnp.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__linear.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
xsc2 net-_sc2-pad1_ q net-_sc2-pad3_ net-_sc2-pad3_ sky130_fd_pr__pfet_01v8_lvt 
xsc3 net-_sc2-pad1_ q gnd gnd sky130_fd_pr__nfet_01v8_lvt 
xsc4 q net-_sc2-pad1_ net-_sc2-pad3_ net-_sc2-pad3_ sky130_fd_pr__pfet_01v8_lvt 
xsc5 q net-_sc2-pad1_ gnd gnd sky130_fd_pr__nfet_01v8_lvt 
xsc1 q wl bl gnd sky130_fd_pr__nfet_01v8_lvt 
xsc6 blb wl net-_sc2-pad1_ gnd sky130_fd_pr__nfet_01v8_lvt 
v3  bl gnd pulse(0 1.8 1u 1p 1p 1u 2u)
v2  wl gnd pulse(0 1.8 0 1p 1p 5u 10u)
v1 net-_sc2-pad3_ gnd  dc 1.8
v4  blb gnd pulse(0 1.8 0 1p 1p 1u 2u)
* s c m o d e
.tran 1e-06 16e-06 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
