* /home/aparveen111/esim-2.3/library/subcircuitlibrary/ayesha_1bit_ram/ayesha_1bit_ram.cir

.include 6T_RAM.sub
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__inductors.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__pnp.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__linear.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__r+c.model.spice"
.lib "/usr/share/local/sky130_fd_pr/models/sky130.lib.spice" 
x1 wl bl net-_u4-pad4_ q 6T_RAM
* u4  net-_u1-pad3_ net-_u1-pad4_ bl net-_u4-pad4_ dac_bridge_2
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ writer_ayesha
* u3  wl din net-_u1-pad1_ net-_u1-pad2_ adc_bridge_2
v2  din gnd pulse(0 0 0 0 0 0 0)
v1  wl gnd pulse(0 0 0 0 0 0 0)
xsc2 net-_sc1-pad1_ q net-_sc2-pad3_ net-_sc2-pad3_ sky130_fd_pr__nfet_01v8_lvt 
xsc6 dout net-_sc1-pad1_ gnd gnd sky130_fd_pr__nfet_01v8_lvt 
xsc3 net-_sc2-pad3_ ren gnd gnd sky130_fd_pr__nfet_01v8_lvt 
v4  ren gnd pulse(0 0 0 0 0 0 0)
v3 net-_sc1-pad3_ gnd  dc 0
* u6  dout plot_v1
* u5  q plot_v1
* s c m o d e
xsc5 dout net-_sc1-pad1_ net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8_lvt 
xsc4 net-_sc1-pad1_ ren net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8_lvt 
xsc1 net-_sc1-pad1_ q net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8_lvt 
* u2  wl din ren dout port
a1 [net-_u1-pad3_ net-_u1-pad4_ ] [bl net-_u4-pad4_ ] u4
a2 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u1-pad3_ ] [net-_u1-pad4_ ] u1
a3 [wl din ] [net-_u1-pad1_ net-_u1-pad2_ ] u3
* Schematic Name:                             dac_bridge_2, NgSpice Name: dac_bridge
.model u4 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             writer_ayesha, NgSpice Name: writer_ayesha
.model u1 writer_ayesha(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(dout)
plot v(q)
.endc
.end
