* /home/aparveen111/esim-2.3/library/subcircuitlibrary/6t_ram/6t_ram.cir

xsc2 net-_sc2-pad1_ q net-_sc2-pad3_ net-_sc2-pad3_ sky130_fd_pr__pfet_01v8_lvt 
xsc3 net-_sc2-pad1_ q gnd gnd sky130_fd_pr__nfet_01v8_lvt 
xsc4 q net-_sc2-pad1_ net-_sc2-pad3_ net-_sc2-pad3_ sky130_fd_pr__pfet_01v8_lvt 
xsc5 q net-_sc2-pad1_ gnd gnd sky130_fd_pr__nfet_01v8_lvt 
xsc1 q wl bl gnd sky130_fd_pr__nfet_01v8_lvt 
xsc6 blb wl net-_sc2-pad1_ gnd sky130_fd_pr__nfet_01v8_lvt 
v3  bl gnd pulse(0 0 0 0 0 0 0)
v2  wl gnd pulse(0 0 0 0 0 0 0)
v1 net-_sc2-pad3_ gnd  dc 0
v4  blb gnd pulse(0 0 0 0 0 0 0)
* u1  bl wl q blb port
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
