* /home/aparveen111/esim-workspace/decoder/decoder.cir

* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ ayesh_decoder_3x8
* u3  net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ y7 y6 y5 y4 y3 y2 y1 y0 dac_bridge_8
* u2  a2 a1 a0 net-_u2-pad4_ net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ adc_bridge_4
v4 net-_u2-pad4_ gnd  dc 1.8
v3  a0 gnd pulse(0 1.8 0 1p 1p 4m 8m)
v2  a1 gnd pulse(0 1.8 0 1p 1p 2m 4m)
v1  a2 gnd pulse(0 1.8 0 1p 1p 1m 2m)
* u4  y7 plot_v1
* u5  y6 plot_v1
* u6  y5 plot_v1
* u7  y4 plot_v1
* u9  y2 plot_v1
* u10  y1 plot_v1
* u11  y0 plot_v1
* u8  y3 plot_v1
a1 [net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ ] [net-_u1-pad4_ ] [net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ ] u1
a2 [net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ ] [y7 y6 y5 y4 y3 y2 y1 y0 ] u3
a3 [a2 a1 a0 net-_u2-pad4_ ] [net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ ] u2
* Schematic Name:                             ayesh_decoder_3x8, NgSpice Name: ayesh_decoder_3x8
.model u1 ayesh_decoder_3x8(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u3 dac_bridge(out_low=0 out_high=1.8 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_4, NgSpice Name: adc_bridge
.model u2 adc_bridge(in_low=0 in_high=1.8 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 1e-03 16e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(y7)
plot v(y6)
plot v(y5)
plot v(y4)
plot v(y2)
plot v(y1)
plot v(y0)
plot v(y3)
.endc
.end
